US04548944
N,N-Dimethyl-N'-[3-(2-guanidino-4-thiazolyl)-phenyl]-formamidine
A solution of 2.5 gm of 2-guanidino-4-(3-amino-phenyl)-thiazole in 7.5 gm of N,N-dimethylformamide diethylacetal was stirred at room temperature for 2 days. Addition of diethyl precipitated a solid which was filtered off and dried, yielding 2.4 gm of the title compound.

reactant | 2-guanidino-4-(3-amino-phenyl)-thiazole | 2.5 gm | N(C(=N)N)C=1SC=C(N1)C1=CC(=CC=C1)N | C10H11N5S
reactant | N,N-dimethylformamide diethylacetal | 7.5 gm | C(C)OC(N(C)C)OCC | C7H17NO2
product | N,N-Dimethyl-N'-[3-(2-guanidino-4-thiazolyl)-phenyl]-formamidine | 2.4 gm | CN(C=NC1=CC(=CC=C1)C=1N=C(SC1)NC(=N)N)C | C13H16N6S
